2175-08-02 06:20:00 Physician Resident Progress Note
Chief Complaint: Found down
   24 Hour Events:
   Tube feeds started
   HD catheter placed at bedside, right femoral, required TPA
   HD performed, 2.9L out
   Residuals high, patient aspirated. 700cc suctioned
 INVASIVE VENTILATION - START [**2175-8-1**] 12:00 PM
 ARTERIAL LINE - START [**2175-8-1**] 12:34 PM
 MULTI LUMEN - START [**2175-8-1**] 12:40 PM
 DIALYSIS CATHETER - START [**2175-8-1**] 04:52 PM
 BLOOD CULTURED - At [**2175-8-2**] 05:11 AM
   1set periferal, 1set from A-line and from RIJ
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2175-8-2**] 03:03 AM
   Lorazepam (Ativan) - [**2175-8-2**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-2**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 108 (98 - 117) bpm
   BP: 145/76(97) {126/74(93) - 178/94(120)} mmHg
   RR: 25 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 16 (0 - 20)mmHg
   Total In:
                                                                 13,777 mL
                                                                    778 mL
   PO:
   TF:
                                                                    198 mL
                                                                     42 mL
   IVF:
                                                                    369 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  3,634 mL
                                                                  3,700 mL
   Urine:
                                                                    759 mL
                                                                    100 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
                                                                    875 mL
   Balance:
                                                                 10,143 mL
                                                                 -2,922 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 881 (676 - 908) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: 7.30/30/110/13/-9
   Ve: 14.6 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General: Sedated, intubated, not following commands
   HEENT: Improved facial edema and erythema
   Cardiovascular: Regular rate, no murmurs, rubs or gallops
   Lugns: diffuse Ronchi anteriorly
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Warm, dry
   Abdomen: Firm, non tender, hyperactive bowel sounds.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   71 K/uL
   13.2 g/dL
   134 mg/dL
   7.1 mg/dL
   13 mEq/L
   5.1 mEq/L
   61 mg/dL
   119 mEq/L
   145 mEq/L
   38.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2175-8-1**]  12:42 AM
                             [**2175-8-1**]  05:41 AM
                             [**2175-8-1**]  06:00 AM
                             [**2175-8-1**]  10:38 AM
                             [**2175-8-1**]  10:40 AM
                             [**2175-8-1**]  04:34 PM
                             [**2175-8-1**]  09:44 PM
                             [**2175-8-1**]  09:50 PM
                             [**2175-8-2**]  03:16 AM
                             [**2175-8-2**]  03:29 AM
   WBC
   10.3
   11.7
   Hct
   37.6
   38.3
   Plt
   90
   71
   Cr
   6.2
   6.3
   6.8
   7.1
   7.1
   TropT
   1.02
   1.10
   TCO2
   15
   13
   13
   12
   15
   Glucose
   116
   125
   111
   107
   134
   Other labs: PT / PTT / INR:14.3/139.6/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 3965**]/40/1.10, ALT / AST:1128/472, Alk Phos / T Bili:80/1.4,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.1 %, Mono:2.6 %, Eos:0.5
   %, Fibrinogen:377 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL,
   LDH:1139 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 765**] is a 50M with a history of polysubstance abuse who is
   presenting with altered mental status after being found down by family
   members.
   #. Hypertension / Tachycardia: Concerning for acute alcohol withdrawal
   given history of alchol abuse, in addition to emesis and diaphoresis
   -- IV Valium boluse 15mg x 1
   -- Midazolam for sedation, stop propofol
   -- Would not mask hypertension until withdrawal appropiately treated
   -- Avoid beta blockers in setting of amphetamine use
   -- If BP meds needed, would favor peripheral CCB as this would also
   help with CNS vasospasm
   #. Coma: Multifactorial; MRI from OSH showing multiple embolic strokes,
   polysubstance abuse, (including ETOH, IV heroin, crack/cocaine),
   possible withdrawal, history of hepatic encephalopathy, now with uremia
   and critical illness.
   -- Concern for endocarditis with septic emboli given IVDU.
   -- Intubated for airway protection
   -- withdrawal prophylaxis as above
   -- On Lactulose for possible hepatic encephalopathy contribution
   -- Continue to treat metabolic derrangements
   #. Strokes: Distribution concerning for embolic phenomena with embolic
   shower
   -- No heparin drip at this time
   -- f/u neuro recs
   #. Rhabdomyolysis: CK ~40,000 at presentation. Complicated by ARF,
   Improving after agressive hydration and dialysis
   -- Monitor CKs
   -- Continue agressive dialysis
   #. Infection: Several sources are of concern
   A) Bacteremia: GPC's in blood cultures, also sputum
   -- Continue vancomycin
   -- Follow levels, dose qHD
   -- F/U Cultures
   B) Aspiration pneumonia: Patient had witnessed aspiration event today.
   -- Add Unasyn for gram negative coverage
   -- F/U CXR
   C) Sinusitis: Patient with NG tube and recent severe facial edema
   -- Vanc and Unasyn as above
   D) Urinary track infection: GPC in urine also
   -- Vanc and Unasyn should cover as well.
   -- D/C Cipro for concerns of angioedema.
   #. Acute renal failure: Started on dialysis, anticipate frequent
   treatments
   -- F/U Renal recs
   #. Facial Edema: Concerning for angioedema
   -- D/C Cipro
   -- Continue Dialysis as above, suspect edema was secondary to gross
   overload from agressive hydration for rhabdo
   #. Liver failure: Unclear contribution of muscle breakdown to
   ALT/AST/LDH. Suspect element of shock liver as well
   -- Continue to trend LFT's
   #. Coagulopathy: Likely secondary to liver disfunction
   -- FFP for active bleeding
   -- Would consider ddAVP also, although dose already given.
   #. Left upper extremity compartment syndrome: Now POD 3 S/p fasciotomy
   in the OR.
   -- Vac dressing in place
   -- F/U Ortho recs
   #. ETOH withdrawal: See above
   #. Intubation: for airway protection, no known respiratory failure.
   -- Continue mechanical ventillation for now
   -- Unclear extent of neurologic impairment at this time
   #. NSTEMI: Troponin of 1.1 today, up from 1.02 yesterday but down from
   peak of 1.92 shortly after admission
   -- Likely from coronary spasm [**1-28**] cocaine intoxication
   -- Would consider aspirin
   -- Patient coagulopathic now
   -- Liver failure now and rhabdomyolisis, statin contraindicated
   -- Follow serial ECG's
   -- Would stop trending enzymes unless ECG changes are seen.
   #. Positive UTI: GPC, for now continue vanc
   FEN: NPO for now
   .
   PPX:
   -DVT ppx: SC Heparin
   -VAP ppx: mouth care, HOB elevation, IV H2 blocker
   .
   ACCESS: RIJ, A line, PIV
   .
   CODE STATUS: Presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-8-1**] 12:34 PM
   Multi Lumen - [**2175-8-1**] 12:40 PM
   20 Gauge - [**2175-8-1**] 12:46 PM
   Dialysis Catheter - [**2175-8-1**] 04:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-03 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Received three doses of diazapam 15mg with a midazolam drip for
   HTN/tachycardia with good effect
   -Unasyn added to abx for ?aspiration event and sinusiitis
   -Bladder pressure 6
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2175-8-2**] 05:58 PM
   Ampicillin/Sulbactam (Unasyn) - [**2175-8-2**] 08:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2175-8-2**] 08:00 AM
   Fentanyl - [**2175-8-2**] 08:00 AM
   Diazepam (Valium) - [**2175-8-2**] 11:42 AM
   Heparin Sodium (Prophylaxis) - [**2175-8-3**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-3**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 111 (111 - 128) bpm
   BP: 130/64(84) {130/64(84) - 199/112(140)} mmHg
   RR: 14 (7 - 22) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 8 (8 - 23)mmHg
   Bladder pressure: 6 (6 - 6) mmHg
   Total In:
                                                                  1,757 mL
                                                                    309 mL
   PO:
   TF:
                                                                     42 mL
   IVF:
                                                                  1,126 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                  9,594 mL
                                                                    119 mL
   Urine:
                                                                    519 mL
                                                                    119 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
                                                                    475 mL
   Balance:
                                                                 -7,837 mL
                                                                    190 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 1,319 (867 - 1,319) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.30/33/179/16/-8
   Ve: 9.1 L/min
   PaO2 / FiO2: 447
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   76 K/uL
   11.6 g/dL
   117 mg/dL
   7.8 mg/dL
   16 mEq/L
   4.9 mEq/L
   67 mg/dL
   113 mEq/L
   144 mEq/L
   33.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2175-8-1**]  10:38 AM
                             [**2175-8-1**]  10:40 AM
                             [**2175-8-1**]  04:34 PM
                             [**2175-8-1**]  09:44 PM
                             [**2175-8-1**]  09:50 PM
                             [**2175-8-2**]  03:16 AM
                             [**2175-8-2**]  03:29 AM
                             [**2175-8-3**]  03:33 AM
                             [**2175-8-3**]  03:52 AM
                             [**2175-8-3**]  05:29 AM
   WBC
   11.7
   14.8
   Hct
   38.3
   33.4
   Plt
   71
   76
   Cr
   6.3
   6.8
   7.1
   7.1
   7.8
   TropT
   1.10
   TCO2
   13
   12
   15
   19
   17
   Glucose
   125
   111
   107
   134
   117
   Other labs: PT / PTT / INR:13.6/35.4/1.2, CK / CKMB /
   Troponin-T:5850/40/1.10, ALT / AST:720/209, Alk Phos / T Bili:83/1.3,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.1 %, Mono:2.6 %, Eos:0.5
   %, Fibrinogen:377 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:807 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:7.1 mg/dL
   Microbiology: Blood 8/4: Staph aureus, no sensitivities run on PCN
   Sputum [**7-31**]: heavy growth of MSSA and strep pneumo, sparse growth of GNR
   in sputum
   Assessment and Plan
   Mr. [**Known lastname 765**] is a 50M with a history of polysubstance abuse who is
   presenting with altered mental status after being found down by family
   members.
   #. Hypertension / Tachycardia: Concerning for acute alcohol withdrawal
   given history of alchol abuse, in addition to emesis and diaphoresis
   -- IV Valium boluse 15mg x 1
   -- Midazolam for sedation, stop propofol
   -- Would not mask hypertension until withdrawal appropiately treated
   -- Avoid beta blockers in setting of amphetamine use
   -- If BP meds needed, would favor peripheral CCB as this would also
   help with CNS vasospasm
   #. Coma: Multifactorial; MRI from OSH showing multiple embolic strokes,
   polysubstance abuse, (including ETOH, IV heroin, crack/cocaine),
   possible withdrawal, history of hepatic encephalopathy, now with uremia
   and critical illness.
   -- Concern for endocarditis with septic emboli given IVDU.
   -- Intubated for airway protection
   -- withdrawal prophylaxis as above
   -- On Lactulose for possible hepatic encephalopathy contribution
   -- Continue to treat metabolic derrangements
   #. Strokes: Distribution concerning for embolic phenomena with embolic
   shower
   -- No heparin drip at this time
   -- f/u neuro recs
   #. Rhabdomyolysis: CK ~40,000 at presentation. Complicated by ARF,
   Improving after agressive hydration and dialysis
   -- Monitor CKs
   -- Continue agressive dialysis
   #. Infection: Several sources are of concern
   A) Bacteremia: GPC's in blood cultures, also sputum
   -- Continue vancomycin
   -- Follow levels, dose qHD
   -- F/U Cultures
   B) Aspiration pneumonia: Patient had witnessed aspiration event today.
   -- Add Unasyn for gram negative coverage
   -- F/U CXR
   C) Sinusitis: Patient with NG tube and recent severe facial edema
   -- Vanc and Unasyn as above
   D) Urinary track infection: GPC in urine also
   -- Vanc and Unasyn should cover as well.
   -- D/C Cipro for concerns of angioedema.
   #. Acute renal failure: Started on dialysis, anticipate frequent
   treatments
   -- F/U Renal recs
   #. Facial Edema: Concerning for angioedema
   -- D/C Cipro
   -- Continue Dialysis as above, suspect edema was secondary to gross
   overload from agressive hydration for rhabdo
   #. Liver failure: Unclear contribution of muscle breakdown to
   ALT/AST/LDH. Suspect element of shock liver as well
   -- Continue to trend LFT's
   #. Coagulopathy: Likely secondary to liver disfunction
   -- FFP for active bleeding
   -- Would consider ddAVP also, although dose already given.
   #. Left upper extremity compartment syndrome: Now POD 3 S/p fasciotomy
   in the OR.
   -- Vac dressing in place
   -- F/U Ortho recs
   #. ETOH withdrawal: See above
   #. Intubation: for airway protection, no known respiratory failure.
   -- Continue mechanical ventillation for now
   -- Unclear extent of neurologic impairment at this time
   #. NSTEMI: Troponin of 1.1 today, up from 1.02 yesterday but down from
   peak of 1.92 shortly after admission
   -- Likely from coronary spasm [**1-28**] cocaine intoxication
   -- Would consider aspirin
   -- Patient coagulopathic now
   -- Liver failure now and rhabdomyolisis, statin contraindicated
   -- Follow serial ECG's
   -- Would stop trending enzymes unless ECG changes are seen.
   #. Positive UTI: GPC, for now continue vanc
   FEN: NPO for now
   .
   PPX:
   -DVT ppx: SC Heparin
   -VAP ppx: mouth care, HOB elevation, IV H2 blocker
   .
   ACCESS: RIJ, A line, PIV
   .
   CODE STATUS: Presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-8-1**] 12:34 PM
   Multi Lumen - [**2175-8-1**] 12:40 PM
   20 Gauge - [**2175-8-1**] 12:46 PM
   Dialysis Catheter - [**2175-8-1**] 04:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-03 11:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Received three doses of diazapam 15mg with a midazolam drip for
   HTN/tachycardia with good effect
   -Unasyn added to abx for ?aspiration event and sinusiitis
   -Bladder pressure 6
   - HD performed, 5 Kg out,
   - Per Renal, no HD today
   - In for tunneled line today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2175-8-2**] 05:58 PM
   Ampicillin/Sulbactam (Unasyn) - [**2175-8-2**] 08:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2175-8-2**] 08:00 AM
   Fentanyl - [**2175-8-2**] 08:00 AM
   Diazepam (Valium) - [**2175-8-2**] 11:42 AM
   Heparin Sodium (Prophylaxis) - [**2175-8-3**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-3**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 111 (111 - 128) bpm
   BP: 130/64(84) {130/64(84) - 199/112(140)} mmHg
   RR: 14 (7 - 22) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 8 (8 - 23)mmHg
   Bladder pressure: 6 (6 - 6) mmHg
   Total In:
                                                                  1,757 mL
                                                                    309 mL
   PO:
   TF:
                                                                     42 mL
   IVF:
                                                                  1,126 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                  9,594 mL
                                                                    119 mL
   Urine:
                                                                    519 mL
                                                                    119 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
                                                                    475 mL
   Balance:
                                                                 -7,837 mL
                                                                    190 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 1,319 (867 - 1,319) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.30/33/179/16/-8
   Ve: 9.1 L/min
   PaO2 / FiO2: 447
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   76 K/uL
   11.6 g/dL
   117 mg/dL
   7.8 mg/dL
   16 mEq/L
   4.9 mEq/L
   67 mg/dL
   113 mEq/L
   144 mEq/L
   33.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2175-8-1**]  10:38 AM
                             [**2175-8-1**]  10:40 AM
                             [**2175-8-1**]  04:34 PM
                             [**2175-8-1**]  09:44 PM
                             [**2175-8-1**]  09:50 PM
                             [**2175-8-2**]  03:16 AM
                             [**2175-8-2**]  03:29 AM
                             [**2175-8-3**]  03:33 AM
                             [**2175-8-3**]  03:52 AM
                             [**2175-8-3**]  05:29 AM
   WBC
   11.7
   14.8
   Hct
   38.3
   33.4
   Plt
   71
   76
   Cr
   6.3
   6.8
   7.1
   7.1
   7.8
   TropT
   1.10
   TCO2
   13
   12
   15
   19
   17
   Glucose
   125
   111
   107
   134
   117
   Other labs: PT / PTT / INR:13.6/35.4/1.2, CK / CKMB /
   Troponin-T:5850/40/1.10, ALT / AST:720/209, Alk Phos / T Bili:83/1.3,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.1 %, Mono:2.6 %, Eos:0.5
   %, Fibrinogen:377 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:807 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:7.1 mg/dL
   Microbiology: Blood 8/4: Staph aureus, no sensitivities run on PCN
   Sputum [**7-31**]: heavy growth of MSSA and strep pneumo, sparse growth of GNR
   in sputum
   Assessment and Plan
   Mr. [**Known lastname 765**] is a 50M with a history of polysubstance abuse who is
   presenting with altered mental status after being found down by family
   members.
   #. Hypertension / Tachycardia: Concerning for acute alcohol withdrawal,
   now appropriately treated with
   improved with aggressive benzodiazepine tx
   -- IV Valium boluse 15mg x PRN
   -- Midazolam for sedation
   -- Would not mask hypertension until withdrawal appropiately treated
   -- Avoid beta blockers in setting of amphetamine use
   -- If BP meds needed, would favor peripheral CCB as this would also
   help with CNS vasospasm
   #. Coma: Multifactorial; MRI from OSH showing multiple embolic strokes,
   polysubstance abuse, (including ETOH, IV heroin, crack/cocaine),
   possible withdrawal, history of hepatic encephalopathy, now with uremia
   and critical illness.
   -- Concern for endocarditis with septic emboli given IVDU.
   -- Intubated for airway protection
   -- withdrawal prophylaxis as above
   -- On Lactulose for possible hepatic encephalopathy contribution
   -- Continue to treat metabolic derrangements
   #. Strokes: Distribution concerning for embolic phenomena with embolic
   shower
   -- No heparin drip at this time
   -- f/u neuro recs
   #. Rhabdomyolysis: CK ~40,000 at presentation. Complicated by ARF,
   Improving after agressive hydration and dialysis
   -- Monitor CKs
   -- Continue agressive dialysis
   #. Infection: Several sources are of concern
   A) Bacteremia: GPC's in blood cultures, speciated to coag (+) staph,
   partial sensitivities available.
   -- Continue vancomycin
   -- Follow levels, dose qHD
   -- F/U Cultures
   B) Aspiration pneumonia: Patient had witnessed aspiration event today.
   -- Sputum with MSSA
   -- Add Unasyn for gram negative coverage
   -- F/U daily CXR
   C) Sinusitis: Patient with OG tube today
   -- Vanc and Unasyn as above
   D) Urinary track infection: GPC in urine also
   -- Vanc and Unasyn should cover as well.
   -- D/C Cipro for concerns of angioedema.
   #. Acute renal failure: Started on dialysis, 5kg removed yesterday
   -- No HD today
   -- Needs more permanent access, would order tunneled RIJ today
   -- F/U Renal recs
   #. Facial Edema: Concerning for angioedema
   -- D/C Cipro
   -- Continue Dialysis as above, suspect edema was secondary to gross
   overload from agressive hydration for rhabdo
   #. Liver failure: Unclear contribution of muscle breakdown to
   ALT/AST/LDH. Suspect element of shock liver as well
   -- Continue to trend LFT's
   #. Coagulopathy: Likely secondary to liver disfunction
   -- FFP for active bleeding
   -- Would consider ddAVP also, although dose already given.
   #. Left upper extremity compartment syndrome: Now POD 3 S/p fasciotomy
   in the OR.
   -- Vac dressing in place
   -- F/U Ortho recs
   #. ETOH withdrawal: See above
   #. Intubation: for airway protection, no known respiratory failure.
   -- Continue mechanical ventillation for now
   -- Unclear extent of neurologic impairment at this time
   #. NSTEMI: Troponin of 1.1 today, up from 1.02 yesterday but down from
   peak of 1.92 shortly after admission
   -- Likely from coronary spasm [**1-28**] cocaine intoxication
   -- Would consider aspirin
   -- Patient coagulopathic now
   -- Liver failure now and rhabdomyolisis, statin contraindicated
   -- Follow serial ECG's
   -- Would stop trending enzymes unless ECG changes are seen.
   #. Positive UTI: GPC, for now continue vanc
   FEN: NPO for now
   .
   PPX:
   -DVT ppx: SC Heparin
   -VAP ppx: mouth care, HOB elevation, IV H2 blocker
   .
   ACCESS: RIJ, A line, PIV
   .
   CODE STATUS: Presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-8-1**] 12:34 PM
   Multi Lumen - [**2175-8-1**] 12:40 PM
   20 Gauge - [**2175-8-1**] 12:46 PM
   Dialysis Catheter - [**2175-8-1**] 04:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-04 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2175-8-3**] 06:00 PM
   pt went to IR with RN.vs stable.pt tolerated the procedure well
 DIALYSIS CATHETER - STOP [**2175-8-3**] 09:04 PM
   - R subclavian tunneled dialysis catheter placed by IR
   - R femoral line removed; tip sent for culture
   - Received extra dose of Vancomycin x 1 after HD
   - Underwent HD yesterday prior to IR procedure
   - Tube feedings slightly modified per nutrition
   - Midazolam and benadryl d/c
   - Per ortho, plan for wound vac dressing change on Monday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2175-8-2**] 08:00 PM
   Vancomycin - [**2175-8-3**] 03:30 PM
   Ampicillin - [**2175-8-3**] 08:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2175-8-3**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2175-8-4**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-4**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 114 (107 - 118) bpm
   BP: 150/74(98) {127/67(87) - 175/83(109)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 12 (1 - 14)mmHg
   Bladder pressure: 5 (5 - 5) mmHg
   Total In:
                                                                  1,209 mL
                                                                    307 mL
   PO:
   TF:
                                                                    104 mL
   IVF:
                                                                    979 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                    728 mL
                                                                    138 mL
   Urine:
                                                                    438 mL
                                                                    138 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                    481 mL
                                                                    169 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 781 (781 - 781) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.26/36/167/20/-9
   Ve: 9.8 L/min
   PaO2 / FiO2: 418
   Physical Examination
   Gen
   HEENT
   Heart
   Lungs
   Abdomen
   Extremities
   Labs / Radiology
   77 K/uL
   10.8 g/dL
   103 mg/dL
   7.3 mg/dL
   20 mEq/L
   4.5 mEq/L
   65 mg/dL
   112 mEq/L
   145 mEq/L
   30.9 %
   11.6 K/uL
        [image002.jpg]
                             [**2175-8-1**]  04:34 PM
                             [**2175-8-1**]  09:44 PM
                             [**2175-8-1**]  09:50 PM
                             [**2175-8-2**]  03:16 AM
                             [**2175-8-2**]  03:29 AM
                             [**2175-8-3**]  03:33 AM
                             [**2175-8-3**]  03:52 AM
                             [**2175-8-3**]  05:29 AM
                             [**2175-8-3**]  09:07 AM
                             [**2175-8-4**]  05:05 AM
   WBC
   11.7
   14.8
   11.6
   Hct
   38.3
   33.4
   30.9
   Plt
   71
   76
   77
   Cr
   6.8
   7.1
   7.1
   7.8
   7.3
   TropT
   1.10
   TCO2
   12
   15
   19
   17
   17
   Glucose
   111
   107
   134
   117
   103
   Other labs: PT / PTT / INR:13.6/35.4/1.2, CK / CKMB /
   Troponin-T:3681/40/1.10, ALT / AST:478/134, Alk Phos / T Bili:83/1.3,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.1 %, Mono:2.6 %, Eos:0.5
   %, Fibrinogen:377 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:697 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:7.1 mg/dL
   Imaging: [**8-4**] Cxray: Pending
   Microbiology: [**7-31**] Blood culture: Coag positive staph
   [**7-31**] Urine culture: Coag negative staph
   Assessment and Plan
   Mr. [**Known lastname 765**] is a 50M with a history of polysubstance abuse who is
   presenting with altered mental status after being found down by family
   members.
   #. Hypertension / Tachycardia: Concerning for acute alcohol withdrawal,
   now appropriately treated with large doses of benzos
   -- Would not aggressively give benzodiazepines at this time given
   profound sedation today
   -- Discontinue Midzolam, would give IV Ativan 2mg PRN
   -- Avoid pure beta blockers in setting of amphetamine use, if ongoing
   would use Labetalol IV
   #. Coma: Multifactorial; MRI from OSH showing multiple embolic strokes,
   polysubstance abuse, (including ETOH, IV heroin, crack/cocaine),
   possible withdrawal, history of hepatic encephalopathy, now with uremia
   and critical illness.
   -- Concern for endocarditis with septic emboli given IVDU.
   -- Intubated for airway protection
   -- withdrawal prophylaxis as above
   -- On Lactulose for possible hepatic encephalopathy contribution
   -- Continue to treat metabolic derangements
   #. Infection: Several sources are of concern
   A) Bacteremia: GPC's in blood cultures, speciated to coag (+) staph,
   partial sensitivities available.
   -- Continue vancomycin, needs redosing today given low trough
   -- Follow levels, dose qHD
   -- F/U Cultures
   B) Aspiration pneumonia: Patient had witnessed aspiration event today.
   -- Sputum with MSSA
   -- Add Unasyn for gram negative coverage
   -- F/U daily CXR
   C) Sinusitis: Patient with OG tube today
   -- Vanc and Unasyn as above
   D) Urinary track infection: GPC in urine also
   -- Vanc and Unasyn should cover as well.
   -- D/C Cipro for concerns of angioedema.
   #. Acute renal failure: Started on dialysis, 5kg removed yesterday
   -- No HD today
   -- Needs more permanent access, would order tunneled RIJ today
   -- F/U Renal recs
   #. Strokes: Distribution concerning for embolic phenomena with embolic
   shower
   -- No heparin drip at this time
   -- f/u neuro recs
   #. Rhabdomyolysis: CK ~40,000 at presentation. Complicated by ARF,
   Improving after agressive hydration and dialysis. Significantly
   improved today with CK~ 5,000
   -- Continue agressive dialysis
   #. Liver failure: Improving, Unclear contribution of muscle breakdown
   to ALT/AST/LDH. Suspect element of shock liver as well
   -- Continue to trend LFT's
   #. Left upper extremity compartment syndrome: Now POD 4 S/p fasciotomy
   in the OR.
   -- Vac dressing in place
   -- F/U Ortho recs
   #. ETOH withdrawal: See above
   #. Intubation: for airway protection, no known respiratory failure.
   -- Continue mechanical ventillation for now
   -- Unclear extent of neurologic impairment at this time
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2175-8-4**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-8-1**] 12:34 PM
   Multi Lumen - [**2175-8-1**] 12:40 PM
   Dialysis Catheter - [**2175-8-3**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-04 11:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2175-8-3**] 06:00 PM
   pt went to IR with RN.vs stable.pt tolerated the procedure well
 DIALYSIS CATHETER - STOP [**2175-8-3**] 09:04 PM
   - R subclavian tunneled dialysis catheter placed by IR
   - R femoral line removed; tip sent for culture
   - Received extra dose of Vancomycin x 1 after HD
   - Underwent HD yesterday prior to IR procedure
   - Tube feedings slightly modified per nutrition
   - Midazolam and benadryl d/c
   - Per ortho, plan for wound vac dressing change on Monday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2175-8-2**] 08:00 PM
   Vancomycin - [**2175-8-3**] 03:30 PM
   Ampicillin - [**2175-8-3**] 08:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2175-8-3**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2175-8-4**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-4**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 114 (107 - 118) bpm
   BP: 150/74(98) {127/67(87) - 175/83(109)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 12 (1 - 14)mmHg
   Bladder pressure: 5 (5 - 5) mmHg
   Total In:
                                                                  1,209 mL
                                                                    307 mL
   PO:
   TF:
                                                                    104 mL
   IVF:
                                                                    979 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                    728 mL
                                                                    138 mL
   Urine:
                                                                    438 mL
                                                                    138 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                    481 mL
                                                                    169 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 781 (781 - 781) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.26/36/167/20/-9
   Ve: 9.8 L/min
   PaO2 / FiO2: 418
   Physical Examination
   General: Sedated, intubated, not following commands
   HEENT: Resolved facial edema and erythema
   Cardiovascular: Regular rate, no murmurs, rubs or gallops
   Lugns: Clear to auscultation anteriorly
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Warm, dry
   Abdomen: Firm, non tender, hyperactive bowel sounds.
   Labs / Radiology
   77 K/uL
   10.8 g/dL
   103 mg/dL
   7.3 mg/dL
   20 mEq/L
   4.5 mEq/L
   65 mg/dL
   112 mEq/L
   145 mEq/L
   30.9 %
   11.6 K/uL
        [image002.jpg]
                             [**2175-8-1**]  04:34 PM
                             [**2175-8-1**]  09:44 PM
                             [**2175-8-1**]  09:50 PM
                             [**2175-8-2**]  03:16 AM
                             [**2175-8-2**]  03:29 AM
                             [**2175-8-3**]  03:33 AM
                             [**2175-8-3**]  03:52 AM
                             [**2175-8-3**]  05:29 AM
                             [**2175-8-3**]  09:07 AM
                             [**2175-8-4**]  05:05 AM
   WBC
   11.7
   14.8
   11.6
   Hct
   38.3
   33.4
   30.9
   Plt
   71
   76
   77
   Cr
   6.8
   7.1
   7.1
   7.8
   7.3
   TropT
   1.10
   TCO2
   12
   15
   19
   17
   17
   Glucose
   111
   107
   134
   117
   103
   Other labs: PT / PTT / INR:13.6/35.4/1.2, CK / CKMB /
   Troponin-T:3681/40/1.10, ALT / AST:478/134, Alk Phos / T Bili:83/1.3,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.1 %, Mono:2.6 %, Eos:0.5
   %, Fibrinogen:377 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:697 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:7.1 mg/dL
   Imaging: [**8-4**] Cxray: Pending
   Microbiology: [**7-31**] Blood culture: Coag positive staph
   [**7-31**] Urine culture: Coag negative staph
   Assessment and Plan
   Mr. [**Known lastname 765**] is a 50M with a history of polysubstance abuse who is
   presenting with altered mental status after being found down by family
   members.
   #. Hypertension / Tachycardia: Concerning for acute alcohol withdrawal,
   now appropriately treated with large doses of benzos
   -- Would not aggressively give benzodiazepines at this time given
   profound sedation today
   -- If needed, would give IV Ativan 2mg PRN
   -- Start Labetalol PO 100mg TID, uptitrate as necessary
   #. Coma: Multifactorial; MRI from OSH showing multiple embolic strokes,
   polysubstance abuse, (including ETOH, IV heroin, crack/cocaine),
   possible withdrawal, history of hepatic encephalopathy, now with uremia
   and critical illness.
   -- Intubated for airway protection
   -- Improved uremia from HD
   -- withdrawal prophylaxis as above
   -- On Lactulose for possible hepatic encephalopathy contribution
   -- Continue to treat metabolic derangements
   #. Infection: Several sources are of concern
   A) Bacteremia: GPC's in blood cultures, speciated to coag (+) staph,
   partial sensitivities available.
   -- Would D/C  vancomycin,
   -- Continue Unasyn IV x 14 day course
   -- F/U Cultures
   B) Aspiration pneumonia: Patient had witnessed aspiration event today.
   -- Sputum with MSSA
   -- Add Unasyn for gram negative coverage
   -- F/U daily CXR
   C) Concern for Sinusitis: Patient with OG tube today
   -- Unasyn as above
   D) Urinary track infection: GPC in urine also
   -- Unasyn should cover as well.
   #. Acute renal failure: Permanent catheter placed
   -- HD planned for today
   -- F/U Renal recs re: phos binder
   #. Strokes: Distribution concerning for embolic phenomena with embolic
   shower
   -- No heparin drip at this time
   -- f/u neuro recs
   #. Rhabdomyolysis: CK ~40,000 at presentation. Complicated by ARF,
   Improving after agressive hydration and dialysis. Significantly
   improved today with CK~ 5,000
   -- Continue agressive dialysis
   #. Liver failure: Improving, Unclear contribution of muscle breakdown
   to ALT/AST/LDH. Suspect element of shock liver as well
   -- Continue to trend LFT's
   #. Left upper extremity compartment syndrome: Now POD 4 S/p fasciotomy
   in the OR.
   -- Vac dressing in place
   -- F/U Ortho recs
   #. ETOH withdrawal: See above
   #. Intubation: for airway protection, no known respiratory failure.
   -- Wean to PS today, if more awake could try RSBI
   -- Unclear extent of neurologic impairment at this time
   ICU Care
   Nutrition: Tube feeds per
   Nutren Renal (Full) - [**2175-8-4**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-8-1**] 12:34 PM
   Multi Lumen - [**2175-8-1**] 12:40 PM
   Dialysis Catheter - [**2175-8-3**] 06:00 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: On tube feeds
   VAP:  Bundle care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending clinical improvement

2175-08-05 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2175-8-4**] 05:44 PM
 MAGNETIC RESONANCE IMAGING - At [**2175-8-4**] 11:30 PM
 PAN CULTURE - At [**2175-8-5**] 04:30 AM
 FEVER - 102.6
F - [**2175-8-5**] 04:00 AM
   Vancomycin re-started
   HD with 3.8L removed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2175-8-3**] 08:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2175-8-4**] 08:00 PM
   Vancomycin - [**2175-8-5**] 06:18 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2175-8-4**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2175-8-5**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-5**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.7
C (101.6
   HR: 93 (93 - 124) bpm
   BP: 120/60(78) {109/50(70) - 171/88(116)} mmHg
   RR: 10 (8 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 15 (0 - 15)mmHg
   Total In:
                                                                  1,569 mL
                                                                    736 mL
   PO:
   TF:
                                                                    701 mL
                                                                    206 mL
   IVF:
                                                                    548 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                    422 mL
                                                                    115 mL
   Urine:
                                                                    422 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,147 mL
                                                                    621 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 989 (365 - 1,282) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.33/38/164/26/-5
   Ve: 9.9 L/min
   PaO2 / FiO2: 410
   Physical Examination
   General: Sedated, intubated, not following commands
   HEENT: Resolved facial edema and erythema
   Cardiovascular: Regular rate, no murmurs, rubs or gallops
   Lugns: Clear to auscultation anteriorly
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Warm, dry
   Abdomen: Firm, non tender, hyperactive bowel sounds.
   Neurologic:
   Labs / Radiology
   113 K/uL
   9.5 g/dL
   129 mg/dL
   6.2 mg/dL
   26 mEq/L
   3.5 mEq/L
   58 mg/dL
   107 mEq/L
   143 mEq/L
   26.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2175-8-2**]  03:16 AM
                             [**2175-8-2**]  03:29 AM
                             [**2175-8-3**]  03:33 AM
                             [**2175-8-3**]  03:52 AM
                             [**2175-8-3**]  05:29 AM
                             [**2175-8-3**]  09:07 AM
                             [**2175-8-4**]  05:05 AM
                             [**2175-8-4**]  08:57 AM
                             [**2175-8-4**]  10:57 AM
                             [**2175-8-5**]  04:37 AM
   WBC
   11.7
   14.8
   11.6
   8.0
   Hct
   38.3
   33.4
   30.9
   26.7
   Plt
   71
   76
   77
   113
   Cr
   7.1
   7.8
   7.3
   6.2
   TropT
   1.10
   TCO2
   15
   19
   17
   17
   22
   21
   Glucose
   134
   117
   103
   129
   Other labs: PT / PTT / INR:13.6/35.4/1.2, CK / CKMB /
   Troponin-T:3586/40/1.10, ALT / AST:395/117, Alk Phos / T Bili:83/1.3,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.1 %, Mono:2.6 %, Eos:0.5
   %, Fibrinogen:377 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:637 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 765**] is a 50M with a history of polysubstance abuse who is
   presenting with altered mental status after being found down by family
   members.
   #. Hypertension / Tachycardia: Significantly improved
   -- Continue Labetalol 100mg PO TID
   -- Would not aggressively give benzodiazepines at this time given
   profound sedation
   -- If needed, would give IV Ativan 2mg PRN
   #. Coma: Multifactorial; MRI from OSH showing multiple embolic strokes,
   polysubstance abuse, (including ETOH, IV heroin, crack/cocaine),
   possible withdrawal, history of hepatic encephalopathy, now with uremia
   and critical illness.
   -- Intubated for airway protection, sedation had to be changed to
   propofol given increasing agitation overnight in hopes of attempting
   RSBI this AM
   -- Improved uremia from HD
   -- monitor for withdrawal
   -- On Lactulose for possible hepatic encephalopathy contribution
   -- Continue to treat metabolic derangements
   #. Infection: Several sources are of concern, given spike after
   stopping Vancomycin, would restart this
   A) Bacteremia: GPC's in blood cultures, speciated to sensitive coag
   (+) Staph.
   -- Would restart  vancomycin,
   -- Continue Unasyn IV x 14 day course
   -- F/U Cultures
   B) Aspiration pneumonia: Patient had witnessed aspiration event.
   -- Sputum with MSSA
   -- Add Unasyn for gram negative coverage
   -- F/U daily CXR
   C) Concern for Sinusitis: Patient with OG tube now
   -- Unasyn as above
   D) Urinary track infection: GPC in urine also
   -- Unasyn should cover as well.
   #. Acute renal failure: Permanent catheter placed
   -- HD planned for today
   -- F/U Renal recs re: phos binder
   #. Strokes: Distribution concerning for embolic phenomena with embolic
   shower
   -- No heparin drip at this time
   -- f/u neuro recs
   #. Rhabdomyolysis: CK ~40,000 at presentation. Complicated by ARF,
   Improving after aggressive hydration and dialysis. Significantly
   improved today with CK~ 3,500
   #. Liver failure: Improving, Unclear contribution of muscle breakdown
   to ALT/AST/LDH. Suspect element of shock liver as well
   -- Continue to trend LFT's
   #. Left upper extremity compartment syndrome: Now POD 4 S/p fasciotomy
   in the OR.
   -- Vac dressing in place
   -- F/U Ortho recs
   #. ETOH withdrawal: See above
   #. Intubation: for airway protection, no known respiratory failure.
   -- Wean to PS today, if more awake could try RSBI
   -- Unclear extent of neurologic impairment at this time
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2175-8-4**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-8-1**] 12:34 PM
   Multi Lumen - [**2175-8-1**] 12:40 PM
   Dialysis Catheter - [**2175-8-3**] 06:00 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: H2 blocker
   VAP:  bundle care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-06 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.7
F - [**2175-8-6**] 04:00 AM, pan-cultured
   -Vanco dosed 500mg x1 per renal recs, for vanco level of 16.9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2175-8-3**] 08:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2175-8-4**] 08:00 PM
   Levofloxacin - [**2175-8-5**] 12:30 PM
   Vancomycin - [**2175-8-5**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-6**] 12:30 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2175-8-5**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2175-8-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-6**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 98 (90 - 111) bpm
   BP: 142/70(93) {109/64(79) - 191/98(130)} mmHg
   RR: 12 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.4 kg (admission): 82 kg
   Height: 70 Inch
    CVP: 12 (7 - 13)mmHg
   Total In:
                                                                  2,441 mL
                                                                    587 mL
   PO:
   TF:
                                                                    895 mL
                                                                    270 mL
   IVF:
                                                                  1,226 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  5,297 mL
                                                                    146 mL
   Urine:
                                                                    397 mL
                                                                    146 mL
   NG:
   Stool:
   Drains:
                                                                    500 mL
   Balance:
                                                                 -2,856 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 309 (220 - 1,080) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/40/156/27/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 390
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   159 K/uL
   9.6 g/dL
   104 mg/dL
   4.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   45 mg/dL
   107 mEq/L
   143 mEq/L
   26.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2175-8-3**]  03:33 AM
                             [**2175-8-3**]  03:52 AM
                             [**2175-8-3**]  05:29 AM
                             [**2175-8-3**]  09:07 AM
                             [**2175-8-4**]  05:05 AM
                             [**2175-8-4**]  08:57 AM
                             [**2175-8-4**]  10:57 AM
                             [**2175-8-5**]  04:37 AM
                             [**2175-8-6**]  03:07 AM
                             [**2175-8-6**]  03:25 AM
   WBC
   14.8
   11.6
   8.0
   6.8
   Hct
   33.4
   30.9
   26.7
   26.9
   Plt
   76
   77
   113
   159
   Cr
   7.8
   7.3
   6.2
   4.9
   TCO2
   19
   17
   17
   22
   21
   28
   Glucose
   117
   103
   129
   104
   Other labs: PT / PTT / INR:13.6/35.4/1.2, CK / CKMB /
   Troponin-T:1693/40/1.10, ALT / AST:349/91, Alk Phos / T Bili:91/0.5,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.1 %, Mono:2.6 %, Eos:0.5
   %, Fibrinogen:377 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:637 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Fluid analysis / Other labs: CK 1693
   Imaging: MRI head: final report:
   Acute bilateral globus pallidus infarcts and acute to subacute
   infarcts in both cerebellar hemispheres. No prior examinations for
   comparison.
   Microbiology: [**7-31**] Blood cultures: MSSA
   [**Date range (1) 4104**] Blood cultures: NGTD
   [**7-31**] Sputum: Heavy MSSA, PCN resistant strep pneumo
   [**8-4**] Sputum: 4+ GNRs
   [**8-5**] Sputum: 3+ GNRs
   Assessment and Plan
   Mr. [**Known lastname 765**] is a 50M with a history of polysubstance abuse who is
   presenting with altered mental status after being found down by family
   members.
   #. Hypertension / Tachycardia: Significantly improved
   -- Continue Labetalol 100mg PO BID
   -- Would not aggressively give benzodiazepines at this time given
   profound sedation
   -- If needed, would give IV Ativan 2mg PRN
   #. Coma: Multifactorial; MRI from OSH showing multiple embolic strokes,
   polysubstance abuse, (including ETOH, IV heroin, crack/cocaine),
   possible withdrawal, history of hepatic encephalopathy, now with uremia
   and critical illness.
   -- Intubated for airway protection, sedation had to be changed to
   propofol given increasing agitation overnight in hopes of attempting
   RSBI this AM
   -- Improved uremia from HD
   -- monitor for withdrawal
   -- On Lactulose for possible hepatic encephalopathy contribution
   -- Continue to treat metabolic derangements
   #. Infection: Several sources are of concern, given spike after
   stopping Vancomycin. Also sputum culture positive for Strep pneumo,
   sensitive to Levaquin.
    A) Bacteremia: GPC's in blood cultures, speciated to MSSA.
   B) Aspiration pneumonia: Patient had witnessed aspiration event. 3+ GNR
   C) Concern for Sinusitis:
   D) Urinary track infection: MSSA in urine
   -- Vanc / Zosyn / Levaquin for hospital acquired pneumonia.
   #. Acute renal failure: Permanent catheter placed
   -- HD planned for today
   -- Renal recommended agains a phos binder
   #. Strokes: Distribution concerning for embolic phenomena with embolic
   shower
   -- No heparin drip at this time
   -- f/u neuro recs
   #. Rhabdomyolysis: CK ~40,000 at presentation. Complicated by ARF,
   Improving after aggressive hydration and dialysis. Significantly
   improved today with CK~ 3,500
   #. Liver failure: Improving, Unclear contribution of muscle breakdown
   to ALT/AST/LDH. Suspect element of shock liver as well
   -- Continue to trend LFT's
   #. Left upper extremity compartment syndrome: Now POD 4 S/p fasciotomy
   in the OR.
   -- Vac dressing in place
   -- F/U Ortho recs
   #. ETOH withdrawal: See above
   #. Intubation: for airway protection, no known respiratory failure.
   -- Wean to PS today, if more awake could attempt extubation
   -- Unclear extent of neurologic impairment at this time
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2175-8-5**] 07:30 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-8-1**] 12:34 PM
   Multi Lumen - [**2175-8-1**] 12:40 PM
   Dialysis Catheter - [**2175-8-3**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-07 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2175-8-6**] 11:28 AM
 MULTI LUMEN - STOP [**2175-8-6**] 04:36 PM
 FEVER - 101.2
F - [**2175-8-6**] 08:00 AM
   - Labetolol dose changed to 100mg TID
   - Patient extubated with no difficulties
   - PIV placed; RIJ d/c'ed but tip not sent for culture
   - Received Fentanyl 12.5 x 1 this morning for pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2175-8-5**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-6**] 11:30 AM
   Levofloxacin - [**2175-8-6**] 12:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2175-8-7**] 12:10 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2175-8-6**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2175-8-7**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-7**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.4
C (99.3
   HR: 92 (89 - 106) bpm
   BP: 161/73(99) {128/66(85) - 181/90(116)} mmHg
   RR: 17 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.2 kg (admission): 82 kg
   Height: 70 Inch
    CVP: 10 (9 - 10)mmHg
   Total In:
                                                                  1,957 mL
                                                                    266 mL
   PO:
                                                                    800 mL
                                                                    100 mL
   TF:
                                                                    339 mL
   IVF:
                                                                    788 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                    642 mL
                                                                    245 mL
   Urine:
                                                                    642 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,315 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 452 (452 - 452) mL
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 7.1 L/min
   Physical Examination
   Gen
   HEENT
   Heart
   Lungs
   Abdomen
   Extremities
   Labs / Radiology
   212 K/uL
   9.5 g/dL
   110 mg/dL
   6.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   69 mg/dL
   105 mEq/L
   142 mEq/L
   25.8 %
   7.7 K/uL
        [image002.jpg]
                             [**2175-8-3**]  03:52 AM
                             [**2175-8-3**]  05:29 AM
                             [**2175-8-3**]  09:07 AM
                             [**2175-8-4**]  05:05 AM
                             [**2175-8-4**]  08:57 AM
                             [**2175-8-4**]  10:57 AM
                             [**2175-8-5**]  04:37 AM
                             [**2175-8-6**]  03:07 AM
                             [**2175-8-6**]  03:25 AM
                             [**2175-8-7**]  03:14 AM
   WBC
   11.6
   8.0
   6.8
   7.7
   Hct
   30.9
   26.7
   26.9
   25.8
   Plt
   77
   113
   159
   212
   Cr
   7.3
   6.2
   4.9
   6.6
   TCO2
   19
   17
   17
   22
   21
   28
   Glucose
   103
   129
   104
   110
   Other labs: PT / PTT / INR:13.6/35.4/1.2, CK / CKMB /
   Troponin-T:2108/40/1.10, ALT / AST:334/88, Alk Phos / T Bili:91/0.5,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.1 %, Mono:2.6 %, Eos:0.5
   %, Fibrinogen:377 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:637 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Imaging: None
   Microbiology:
   [**7-31**] Blood cultures: MSSA
   [**Date range (1) 4104**] Blood cultures: NGTD
   [**7-31**] Sputum: Heavy MSSA, PCN resistant strep pneumo
   [**8-4**] Sputum: 4+ GNRs, Serratia marcescens (moderate growth,
   pan-sensitive)
   [**8-5**] Sputum: 3+ GNRs, moderate growth
   [**8-6**] Blood culture: Pending
   [**8-6**] Urine culture: Pending
   Assessment and Plan
   Mr. [**Known lastname 765**] is a 50M with a history of polysubstance abuse who is
   presenting with altered mental status after being found down by family
   members.
   1) Infection: Urine and sputum cultures growing GNRs. He was also
   growing MSSA in blood and MSSA/strep pneumo in sputum cultures. Also
   concerned about RIJ central line as a source of infection since he is
   spiking through broad spectrum antibiotics. He was started on Levaquin
   yesterday given strep pneumo in sputum.
   - Continue broad spectrum coverage with Vancomycin, Levaquin, and Zosyn
   - f/u cultures
   - d/c RIJ once adequate PIVs are placed; send tip for culture
   3) Hypertension / Tachycardia: Significantly improved from admission.
   -- Increase Labetolol to 100mg TID
   -- Ativan 2mg IV PRN for agitation
   4)Neuro: Multifactorial; MRI here confirms multiple strokes,
   polysubstance abuse, (including ETOH, IV heroin, crack/cocaine),
   possible withdrawal now with uremia and critical illness.
   -- Continue to  monitor for ETOH withdrawal
   -- Continue Lactulose
   -- Neurology reccs
   5) Acute renal failure: Permanent catheter placed last week with no
   complications. Creatinine still remains elevated. He received HD on
   Saturday.
   -- HD today
   -- f/u renal reccs
   6) Rhabdomyolysis: CK ~40,000 at presentation. Complicated by ARF,
   Improving after aggressive hydration and dialysis. Significantly
   improved today with CK~ 1693. Continue to follow daily.
   7) Liver failure: Improving each day.  Follow daily LFTs.
   8) Left upper extremity compartment syndrome: Initially underwent
   fasciotomy on admission and wound vac now in place.
   -- Wound vac dressing tommorow
   -- f/u ortho reccs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-8-1**] 12:34 PM
   Dialysis Catheter - [**2175-8-3**] 06:00 PM
   20 Gauge - [**2175-8-6**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-08 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2175-8-7**] 03:06 PM
   Speech and swallow evaluation partially completed, patient confused
   during evaluation. Will repeat on Wednesday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2175-8-5**] 01:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2175-8-7**] 12:10 AM
   Levofloxacin - [**2175-8-7**] 11:32 AM
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-7**] 12:27 PM
   Amikacin - [**2175-8-7**] 09:40 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2175-8-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2175-8-8**] 04:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-8**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98
   HR: 89 (85 - 109) bpm
   BP: 140/91(102) {123/38(59) - 162/93(106)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.8 kg (admission): 82 kg
   Height: 70 Inch
             Total In:
                                                                  1,120 mL
                                                                     62 mL
   PO:
                                                                    130 mL
             TF:
   IVF:
                                                                    990 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  5,553 mL
                                                                    206 mL
   Urine:
                                                                    728 mL
                                                                    206 mL
   NG:
   Stool:
   Drains:
                                                                    425 mL
   Balance:
                                                                 -4,433 mL
                                                                   -144 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   10.3 g/dL
   103 mg/dL
   5.4 mg/dL
   28 mEq/L
   3.5 mEq/L
   51 mg/dL
   98 mEq/L
   138 mEq/L
   27.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2175-8-3**]  05:29 AM
                             [**2175-8-3**]  09:07 AM
                             [**2175-8-4**]  05:05 AM
                             [**2175-8-4**]  08:57 AM
                             [**2175-8-4**]  10:57 AM
                             [**2175-8-5**]  04:37 AM
                             [**2175-8-6**]  03:07 AM
                             [**2175-8-6**]  03:25 AM
                             [**2175-8-7**]  03:14 AM
                             [**2175-8-8**]  04:24 AM
   WBC
   11.6
   8.0
   6.8
   7.7
   7.8
   Hct
   30.9
   26.7
   26.9
   25.8
   27.9
   Plt
   77
   113
   159
   212
   237
   Cr
   7.3
   6.2
   4.9
   6.6
   5.4
   TCO2
   17
   17
   22
   21
   28
   Glucose
   103
   129
   104
   110
   103
   Other labs: PT / PTT / INR:13.4/32.6/1.1, CK / CKMB /
   Troponin-T:[**2195**]/40/1.10, ALT / AST:387/105, Alk Phos / T Bili:91/0.5,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.1 %, Mono:2.6 %, Eos:0.5
   %, Fibrinogen:377 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:637 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 765**] is a 50M with a history of polysubstance abuse who is
   presenting with altered mental status after being found down by family
   members.
   1) Infection:  Serratia, MSSA, and resistant strep pneumo in the
   sputum, Pseudomonas in the urine.
   -- Started on Amikacin for Pseudomonas, dosed at 70% of 5mg/Kg of IBW
   (70 inches ~ 70 Kg), with load of 600mg
   -- Levofloxacing for MSSA, serratia species from sputum (day [**4-3**] today)
   -- Stopped vanc, zosyn
   -- F/u cultures
   -- change foley
   2) Hypertension / Tachycardia: Significantly improved from admission.
   -- Titrate labetalol after dialysis
   -- Ativan prn
   3)Neuro: Multifactorial; MRI here confirms multiple strokes,
   polysubstance abuse, (including ETOH, IV heroin, crack/cocaine),
   possible withdrawal now with uremia and critical illness.
   -- Continue to  monitor for ETOH withdrawal
   -- Continue Lactulose once able to take PO's
   -- Neurology recs
   4) Acute renal failure: Permanent catheter placed last week with no
   complications. Creatinine still remains elevated. He received HD on
   Saturday.
   -- HD today
   -- f/u renal recs
   5) Rhabdomyolysis: CK ~40,000 at presentation, continue to monitor CK
   daily
   6) Liver failure: Improving each day.  Follow daily LFTs.
   7) Left upper extremity compartment syndrome: Initially underwent
   fasciotomy on admission and wound vac now in place.
   -- S/P repeat debridement
   -- wound vac in place
   -- Patient will need skin graft, not urgent, can be done once medically
   stable.
   -- Will need plastics consult for graft
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2175-8-3**] 06:00 PM
   20 Gauge - [**2175-8-8**] 02:15 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: H2 blocker
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Floor today